US06949552B2
0.62 g of 1-[2-(4-Fluorophenyl)-2-(4-t-butoxycarbonylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine was dissolved in a mixture of 3 ml of ethyl acetate and 3 ml of methanol, and 4 ml of 4M hydrogen chloride/ethyl acetate solution was added, followed by stirring at room temperature for 6 hours. The precipitated crystals were collected by filtration, and the crystals were washed with ethyl acetate to give 0.42 g of 1-[2-(4-fluorophenyl)-2-piperazinoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride as an oil.

reactant | 1-[2-(4-Fluorophenyl)-2-(4-t-butoxycarbonylpiperazino)ethyl]-4-(4-naphthalen-1-yl-butyl)piperazine | 0.62 g | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCN(CC1)C(=O)OC(C)(C)C | C35H47FN4O2
reactant | hydrogen chloride ethyl acetate | 4M, 4 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
product | 1-[2-(4-fluorophenyl)-2-piperazinoethyl]-4-(4-naphthalen-1-yl-butyl)piperazine tetrahydrochloride | 0.42 g | Cl.Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)N1CCNCC1 | InChI=1S/C30H39FN4.4ClH/c31-28-13-11-27(12-14-28)30(35-18-15-32-16-19-35)24-34-22-20-33(21-23-34)17-4-3-7-26-9-5-8-25-6-1-2-10-29(25)26;;;;/h1-2,5-6,8-14,30,32H,3-4,7,15-24H2;4*1H
